US04370326
Thiourea (1.13 g), sodium bicarbonate (1.24 g) and water (20 ml) were added to a solution of 4-nitrobenzyl 7-[2-(2-bromoacetyl)acetamido]-3-cephem-4-carboxylate (6.15 g) in tetrahydrofuran (60 ml), and stirred at room temperature for an hour. After concentrating the resultant solution under reduced pressure, the residue was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The oily residue was subjected to column chromatography on silica gel, and eluted with benzene, a mixture of benzene (1 part) and ethyl acetate (1 part) and then ethyl acetate in turn. The ethyl acetate fractions were collected and concentrated under reduced pressure to give 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)acetamido]-3-cephem-4-carboxylate (1.5 g).

reactant | Thiourea | 1.13 g | NC(=S)N | CH4N2S
reactant | sodium bicarbonate | 1.24 g | C([O-])(O)=O.[Na+]
reactant | water | 20 ml | O | H2O
reactant | 4-nitrobenzyl 7-[2-(2-bromoacetyl)acetamido]-3-cephem-4-carboxylate | 6.15 g | BrCC(=O)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C18H16BrN3O7S
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)acetamido]-3-cephem-4-carboxylate | 1.5 g | NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C19H17N5O6S2
